US09415055B2
To a solution of 2,3-dichloro-N-(2-(4-hydroxypiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethyl)benzamide (130 mg, 0.32 mmol) in DCM (5 mL) was added 4 A molecular sieves (1.3 g), NMO (205 mg, 1.75 mmol) and TPAP (2.2 mg). The mixture was stiffed at room temperature overnight. The resulting mixture was filtered. The filtrate was washed with water, dried over Na2SO4 and concentrated. The residue was purified by preparative TLC (EtOAc:MeC)H=100:3) to give 2,3-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(4-oxopiperidin-1-yl)ethyl)benzamide (31 mg, yield: 24%) as a white solid.

reactant | 2,3-dichloro-N-(2-(4-hydroxypiperidin-1-yl)-2-(2-methylpyrimidin-5-yl)ethyl)benzamide | 0.32 mmol, 130 mg | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C)N2CCC(CC2)O)C=CC=C1Cl | C19H22Cl2N4O2
reactant | NMO | 1.75 mmol, 205 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 2.2 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 2,3-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(4-oxopiperidin-1-yl)ethyl)benzamide | 31 mg, yield: 24% | ClC1=C(C(=O)NCC(N2CCC(CC2)=O)C=2C=NC(=NC2)C)C=CC=C1Cl | C19H20Cl2N4O2
